US05747443
Synthesis of bis(2-hydroxycyclopentyl)ether
A 1-liter, three neck, round bottom flask equipped with magnetic stirrer, internal thermometer, addition funnel, condenser, argon supply, and heating mantle, is flushed with argon. Then 1,2-cyclopentanediol (about 306 g, about 3 moles, Aldrich) is added and boron trifluoride diethyl etherate (about 0.14 g, about 0.01 moles, cis-trans isomer mixture, Aldrich) is added. Then the reaction mixture is held at about 10°-40° C. as cyclopentene oxide (about 84 g. about 1 mole, Aldrich) is added dropwise with stirring until all the cyclopentene oxide has reacted. The reaction mixture is neutralized with sodium hydroxide, and the liquid is fractionally distilled under vacuum to recover the excess cyclopentanediol. The desired ether is obtained as a residue. Optionally, it is purified by further vacuum distillation.

reactant | 1,2-cyclopentanediol | about 3 moles, about 306 g | C1(C(CCC1)O)O | C5H10O2
reactant | boron trifluoride diethyl etherate | about 0.01 moles, about 0.14 g | B(F)(F)F.CCOCC
reactant | cyclopentene oxide | about 1 mole, about 84 g | C12C(CCC1)O2 | C5H8O
reactant | sodium hydroxide | [OH-].[Na+]
product | bis(2-hydroxycyclopentyl)ether | OC1C(CCC1)OC1C(CCC1)O | C10H18O3
